US06822097B1
7-Morpholin-4-ylmethyl-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one
This compound was prepared according to the method described in example 8768 employing 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde and morpholine to give a yellow solid. MS m/z: 405.0 (M+1).

reactant | 3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one-7-carbaldehyde | N1=CC=C(C=C1)C=1SC=C(N1)C=1C(NC2=CC(=CC=C2C1)C=O)=O | C18H11N3O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 7-Morpholin-4-ylmethyl-3-(2-pyridin-4-yl-thiazol-4-yl)-1H-quinolin-2-one | N1(CCOCC1)CC1=CC=C2C=C(C(NC2=C1)=O)C=1N=C(SC1)C1=CC=NC=C1 | C22H20N4O2S
